US04260611
To 8.1 g 3-Chloro-1-phenyl-isoquinoline-4-aldehyde in 150 ml methanol there are added portionwise 1.8 g sodium boron hydride at 0° C. The solution is stirred at room temperature for 4 hours and the solvent is removed in vacuo. The residue is stirred with water. Filtration of the resulting mixture gives 7.2 g 3-chloro-4-hydroxymethyl-1-phenyl-isoquinoline having a melting point from 175° to 182° C.

reactant | 3-Chloro-1-phenyl-isoquinoline-4-aldehyde | 8.1 g | ClC=1N=C(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C16H10ClNO
reactant | sodium boron hydride | 1.8 g | B.[Na]
solvent | methanol | 150 ml | CO | CH4O
product | 3-chloro-4-hydroxymethyl-1-phenyl-isoquinoline | 7.2 g | ClC=1N=C(C2=CC=CC=C2C1CO)C1=CC=CC=C1 | C16H12ClNO
